US08957089B2
65.4 N-[2-({1-[1-(4-Fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide
2-({1-[1-(4-Fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine (298 mg, 0.88 mmol) was dissolved in dichloromethane (10 mL) and N,N-dimethylpyridin-4-amine (118 mg, 0.97 mmol) was added. After dropwise addition of a solution of propane-1-sulfonyl chloride (138 mg, 0.97 mmol) in dichloromethane (2 mL) stirring was continued over night. The reaction mixture was diluted with dichloromethane (20 mL), washed with an aqueous ammonium chloride solution (30 mL). The organic layer was dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (silica, ethyl acetate:dichloromethane=1:10). Yield: 200 mg (0.45 mmol, 51%).

reactant | 2-({1-[1-(4-Fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine | 0.88 mmol, 298 mg | FC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCN | C21H23FN2O
reactant | propane-1-sulfonyl chloride | 0.97 mmol, 138 mg | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylpyridin-4-amine | 0.97 mmol, 118 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-[2-({1-[1-(4-Fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethyl]propane-1-sulfonamide | FC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCNS(=O)(=O)CCC | C24H29FN2O3S
